US04973695
Glacial acetic acid 100 g and 2-ethyl-2-propenal 30 g (0.357 mol) were placed in a 200 ml four neck distillation flask: with a reflux condenser and heated on an oil bath. When the inside temperature reached 90° C., ethyl β-amino-β-ethoxycarbonylacrylate 60 g (0.321 mol) was added dropwise thereto at 90° to 95° C. over a period of 4 hours. After completion of the dropping, the mixture was reacted at 90° to 95° C. for 3 hours. After completion of the reaction, the reaction mixture was distilled to give 36.2 g of 5-ethyl-2,3-diethoxycarbonylpyridine (bp2 : 151° to 152° C.).

reactant | 2-ethyl-2-propenal | 0.357 mol, 30 g | C(C)C(C=O)=C | C5H8O
reactant | ethyl β-amino-β-ethoxycarbonylacrylate | 0.321 mol, 60 g | NC(=CC(=O)OCC)C(=O)OCC | C8H13NO4
solvent | acetic acid | 100 g | C(C)(=O)O | C2H4O2
product | 5-ethyl-2,3-diethoxycarbonylpyridine | 36.2 g | C(C)C=1C=C(C(=NC1)C(=O)OCC)C(=O)OCC | C13H17NO4
